US07947834B2
0.336 g of 5% Pd/C is added to 0.821 g of tert-butyl 3,6-dihydro-4,4′-bipyridine-1(2H)-carboxylate, dissolved in 65 ml of methanol, in a high-pressure reactor under nitrogen. The reaction mixture is placed under a pressure of 3 atmospheres of hydrogen at 25° C. and stirred mechanically for 1 h. The palladium is filtered off on Whatman paper (registered trademark) and is washed with methanol. The solvent is evaporated and the residue is then chromatographed on silica gel, heptane/ethyl acetate (8/2) to heptane/ethyl acetate (1/1) elution gradient. 0.552 g of tert-butyl 4-(pyridin-4-yl)piperidine-1-carboxylate is obtained.

reactant | tert-butyl 3,6-dihydro-4,4′-bipyridine-1(2H)-carboxylate | 0.821 g | N1(CCC(=CC1)C1=CC=NC=C1)C(=O)OC(C)(C)C | C15H20N2O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 65 ml | CO | CH4O
catalyst | Pd/C | 0.336 g | [Pd] | Pd
product | tert-butyl 4-(pyridin-4-yl)piperidine-1-carboxylate | 0.552 g | N1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C15H22N2O2
